US05962455
A solution of 1-(3-aminophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl-cyclohexane (cis isomer, 90 mg, 0.258 mmol) and triethylamine (90 μL, 0.65 mmol) in dry CH2Cl2 (7 mL) was brought to 0° C. using an ice bath. Phosgene (1.93 M in toluene, 160 μL) was added dropwise and the resulting mixture was stirred at 0° C., under a dry N2 atmosphere, for 30 minutes. 3-aminoquinoline (45 mg, 0.310 mmol) was added as a solid and the reaction was allowed to come to room temperature. Upon completion of the reaction (disappearance of 3-aminoquinoline) the mixture was diluted with an equal volume of CH2Cl2, washed with H2O, dried (Na2SO4) and concentrated to give the crude urea. Silica gel chromatography yielded pure N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)cyclohexyl]phenyl]-N'-3-quinolinyl-urea (cis isomer) as an off-white solid. The HCl salt was prepared by adding excess saturated EtOAc/HCl solution to the free base in dry MeOH. Concentration of the homogeneous solution yielded a solid which was washed with EtOAc. mp=180-181° C.

reactant | 1-(3-aminophenyl)-1-(4-phenylpiperazin-1-yl)-4-methyl-cyclohexane | 0.258 mmol, 90 mg | NC=1C=C(C=CC1)C1(CCC(CC1)C)N1CCN(CC1)C1=CC=CC=C1 | C23H31N3
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
reactant | Phosgene | 1.93 M, 160 μL | C(=O)(Cl)Cl | CCl2O
reactant | 3-aminoquinoline | 0.310 mmol, 45 mg | NC=1C=NC2=CC=CC=C2C1 | C9H8N2
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
product | N-[3-[4-methyl-1-(4-phenyl-1-piperazinyl)cyclohexyl]phenyl]-N'-3-quinolinyl-urea | CC1CCC(CC1)(N1CCN(CC1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(=O)NC=1C=NC2=CC=CC=C2C1 | C33H37N5O
